US05354866
(S)-3-(1-(p-Nitrophenoxycarbonyloxy)ethyl)pyridine
A 534 mg (2.65 mmol) sample of p-nitrophenoxycarbonylchloride in methylene chloride was added to a solution of 74 mg (0.606 mmol) of (S)-1-(3-pyridyl)ethanol and 0.080 mL of 4-methylmorpholine in 2 mL of methylene chloride cooled in an ice bath. The mixture was stirred at 0° C. for 3.5 hours. The mixture was diluted with methylene chloride, which was washed with water, dried and concentrated. The crude product was chromatographed on silica gel, eluting with 50% and 90% ethyl acetate in hexane. The solvent was removed and the product dried to afford 0.078 g of the title compound, which was taken directly to the next step.

reactant | p-nitrophenoxycarbonylchloride | [N+](=O)([O-])C1=CC=C(OC(=O)Cl)C=C1 | C7H4ClNO4
reactant | (S)-1-(3-pyridyl)ethanol | 0.606 mmol, 74 mg | N1=CC(=CC=C1)[C@H](C)O | C7H9NO
reactant | 4-methylmorpholine | 0.080 mL | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(1-(p-Nitrophenoxycarbonyloxy)ethyl)pyridine | 0.078 g | [N+](=O)([O-])C1=CC=C(OC(=O)O[C@@H](C)C=2C=NC=CC2)C=C1 | C14H12N2O5
